US06908936B2
1-[1-(2-Methylsulfonyl-ethyl)-1H-benzimidazol-2-ylmethyl]-1H-benzotriazole
1-[1-(2-Methylthio-ethyl)-1H-benzimidazol-2-ylmethyl]-1H-benzotriazole (100 mg, 0.309 mmol) was dissolved in anhydrous N,N-dimethylformamide (5 mL). Magnesium monoperoxy phthalate hexahydrate (611 mg, 1.24 mmol) was added and the reaction mixture was stirred at room temperature overnight under N2. The solvent was stripped under reduced pressure. The yellow oily residue was taken up in EtOAc (100 mL) and washed with water (2×50 mL) dried over magnesium sulfate, filtered and evaporated. Column chromatography on silica gel (EtOAc) gave 45 mg (41%) of the title compound as an oil.

reactant | 1-[1-(2-Methylthio-ethyl)-1H-benzimidazol-2-ylmethyl]-1H-benzotriazole | 0.309 mmol, 100 mg | CSCCN1C(=NC2=C1C=CC=C2)CN2N=NC1=C2C=CC=C1 | C17H17N5S
reactant | Magnesium monoperoxy phthalate hexahydrate | 1.24 mmol, 611 mg | O.O.O.O.O.O.C1(C=2C(C(=O)OOOO1)=CC=CC2)=O.[Mg]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1-[1-(2-Methylsulfonyl-ethyl)-1H-benzimidazol-2-ylmethyl]-1H-benzotriazole | 45 mg, 41% | CS(=O)(=O)CCN1C(=NC2=C1C=CC=C2)CN2N=NC1=C2C=CC=C1 | C17H17N5O2S
